US09302991B2
<Step-1>: methyl 2-butyramidoisonicotinate
The title compound is prepared in 82% yield (1.94 g, a white solid) from methyl 2-aminoisonicotinate hydrochloride (2.00 g, 10.6 mmol) and butyryl chloride by the similar manner in Step-1 of Carboxylic acid-1.

reactant | methyl 2-aminoisonicotinate hydrochloride | 10.6 mmol, 2.00 g | Cl.NC=1C=C(C(=O)OC)C=CN1
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
product | methyl 2-butyramidoisonicotinate | 82% yield | C(CCC)(=O)NC=1C=C(C(=O)OC)C=CN1 | C11H14N2O3
